US04603203
A mixture of 7 g of 6-chloro-3-propyluracil, 10.28 g of butyl bromide, 10.28 g of potassium carbonate, 6 g of potassium iodide and 80 ml of dimethylformamide was stirred at room temperature for 23 hours. After the reaction solution was concentrated to dryness under reduced pressure, 300 ml each of chloroform and water were added to the residue, and the mixture was shaken. The chloroform layer was washed with water and then concentrated to dryness under reduced pressure to give 6-chloro-1-butyl-3-propyluracil as a brown oily substance. This product, without being purified, was dissolved in 20 ml of ethanol, and 20 ml of 100% hydrazine hydrate was added to the solution, followed by stirring at room temperature for 1 hour. The reaction solution was concentrated to dryness under reduced pressure and the residue was washed with water and recrystallized from a mixture of ethanol, ethyl acetate and isopropyl ether to give 7 g of yellow prisms of 6-hydrazino-1-butyl-3-propyluracil melting at 146°-147° C.

reactant | 6-chloro-3-propyluracil | 7 g | ClC1=CC(N(C(N1)=O)CCC)=O | C7H9ClN2O2
reactant | butyl bromide | 10.28 g | C(CCC)Br | C4H9Br
reactant | potassium carbonate | 10.28 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 6 g | [I-].[K+]
solvent | dimethylformamide | 80 ml | CN(C=O)C | C3H7NO
product | 6-chloro-1-butyl-3-propyluracil | ClC1=CC(N(C(N1CCCC)=O)CCC)=O | C11H17ClN2O2
